US05780505
4-Cyano-2-ethylbenzaldehyde oxime was prepared by the procedure of Jolad et al., Org. Syntheses, Coll. Vol. V, 139 (1973). A mixture of paraformaldehyde (2.8 g, 93 mmol) and hydroxylamine hydrochloride (6 g, 86 mmol) in water (39 mL) was heated in a 500 mL 3-necked flask. When a clear, colorless solution was obtained, sodium acetate trihydrate (11.8 g, 87 mmol) was added. The solution was heated for 15 minutes, then cooled in an ice-salt bath to approximately 5°-10° C. To this solution was added copper sulfate (0.97 g, 6.08 mmol), sodium sulfite (0.23 g, 1.82 mmol) and sodium acetate trihydrate (37 g, 272 mmol) in water (42 mL). The resulting green solution was cooled to an internal temperature of approximately 5°-10° C. A diazonium salt solution of 4-amino-3-ethylbenzonitrile was previously prepared as follows: A mixture of 4-amino-3-ethylbenzonitrile (8.32 g, 57 mmol), concentrated hydrochloric acid (13.2 mL), ice (23 g), and water (11.6 mL) was cooled in an ice-salt bath. While maintaining the internal temperature below 10° C., a solution of sodium nitrite (4.2 g, 61 mmol) in water (5.8 mL) was added dropwise. The resulting slurry was stirred at 5°-10° C. for an additional 15 minutes. Then a solution of sodium acetate trihydrate (5.1 g, 37 mmol) in water (8.1 mL) was added. This solution of the diazonium salt was siphoned under the surface of the 10% formaldoxime solution. The reaction mixture was stirred vigorously and allowed to slowly warm to room temperature as the ice-salt bath melted. After 2 hours the reaction mixture was diluted with brine (100 mL), extracted with dichloromethane (2×400 mL), and dried (Na2 SO4). Purification by chromatography (silica gel, hexane:ethyl acetate (7:1)) gave 2.97 g (30%) of a solid: 1H NMR (DMSO-d6) δ11.80 (s, 1H), 8.45 (s, 1H), 8.00-7.60 (m, 3H), 2.90 (m, 2H), 1.20 (m, 3H).

reactant | paraformaldehyde | 93 mmol, 2.8 g | C=O | CH2O
reactant | hydroxylamine hydrochloride | 86 mmol, 6 g | Cl.NO
reactant | sodium acetate trihydrate | 87 mmol, 11.8 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium sulfite | 1.82 mmol, 0.23 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium acetate trihydrate | 272 mmol, 37 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 4-amino-3-ethylbenzonitrile | NC1=C(C=C(C#N)C=C1)CC | C9H10N2
reactant | 4-amino-3-ethylbenzonitrile | 57 mmol, 8.32 g | NC1=C(C=C(C#N)C=C1)CC | C9H10N2
reactant | hydrochloric acid | 13.2 mL | Cl | ClH
reactant | sodium nitrite | 61 mmol, 4.2 g | N(=O)[O-].[Na+]
reactant | sodium acetate trihydrate | 37 mmol, 5.1 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | formaldoxime | C=NO | CH3NO
solvent | water | 39 mL | O | H2O
solvent | water | 42 mL | O | H2O
solvent | water | 5.8 mL | O | H2O
solvent | water | 8.1 mL | O | H2O
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | copper sulfate | 6.08 mmol, 0.97 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 11.6 mL | O | H2O
product | 4-Cyano-2-ethylbenzaldehyde oxime | C(#N)C1=CC(=C(C=NO)C=C1)CC | C10H10N2O
